US09315462B2
Step 4: Synthesis of N-(2-((tert-butyldimethylsilyloxy)methyl)-4-methoxyphenyl)-3,3,3-trifluoropropanamide
A mixture of 2-((tert-butyldimethylsilyloxy) methyl)-4-methoxyaniline (14.0 g), 3,3,3-trifluoro-propionic acid (7.30 g, 57.0 mmol), EDCI (15.0 g, 76.5 mmol), HOBT (11.0 g, 80.2 mmol) and NMM (22 mL, 157 mmol) in anhydrous CH2Cl2 (200 mL) was stirred at 20° C. for 2 hours. The mixture was diluted with CH2Cl2 (100 mL), the organic layer was washed with 1M HCl (100 mL), H2O (100 mL) and brine (100 mL), dried over Na2SO4 and concentrated to give the product.

reactant | 2-((tert-butyldimethylsilyloxy) methyl)-4-methoxyaniline | 14.0 g | [Si](C)(C)(C(C)(C)C)OCC1=C(N)C=CC(=C1)OC | C14H25NO2Si
reactant | 3,3,3-trifluoro-propionic acid | 57.0 mmol, 7.30 g | FC(CC(=O)O)(F)F | C3H3F3O2
reactant | EDCI | 76.5 mmol, 15.0 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBT | 80.2 mmol, 11.0 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | NMM | 157 mmol, 22 mL | CN1CCOCC1 | C5H11NO
solvent | CH2Cl2 | 200 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | N-(2-((tert-butyldimethylsilyloxy)methyl)-4-methoxyphenyl)-3,3,3-trifluoropropanamide | [Si](C)(C)(C(C)(C)C)OCC1=C(C=CC(=C1)OC)NC(CC(F)(F)F)=O | C17H26F3NO3Si
